US06998412B2
6-Chloro-2-hydroxymethyl-1-hexanol
To 214 ml of dry ether was added 8 g of lithium aluminium hydride, and a solution of 26.7 g of diethyl (4-chlorobutyl)malonate/53 ml of dry ether was added dropwise with stirring under ice-cooling. After 1-hour-stirring at room temperature, the mixture was cooled with ice-cold water, and 173 ml of tetrahydrofuran/14.7 ml of water was added gradually. Then, 14.7 ml of 1N sodium hydroxide solution and 35 ml of water were added, stirred for 15 minutes, filtrated to remove insolubles. The filtrate was concentrated to provide 18.2 g of the objective compound as colorless oil.

reactant | ether | 214 ml | CCOCC | C4H10O
reactant | lithium aluminium hydride | 8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl (4-chlorobutyl)malonate | 53 ml, 26.7 g | ClCCCCC(C(=O)OCC)C(=O)OCC | C11H19ClO4
reactant | sodium hydroxide | 1N, 14.7 ml | [OH-].[Na+]
solvent | water | 35 ml | O | H2O
solvent | tetrahydrofuran | 173 ml | O1CCCC1 | C4H8O
product | 6-Chloro-2-hydroxymethyl-1-hexanol | 18.2 g | ClCCCCC(CO)CO | C7H15ClO2
